US06090846
By the method described above for the preparation of N5 -(iminomethoxymethyl)-L-ornithine dihydrochloride, 0.78 g (1.97 mmol) N2 -(tert-butoxycarbonyl)-N5 -(ethoxyiminomethyl)-L-ornithine tert-butyl ester hydrochloride was deprotected to yield 0.51 g (94%) N5 -(ethoxyiminomethyl)-L-ornithine dihydrochloride monohydrate. TLC (silica gel, ammonium hydroxide:methanol/1:25) Rf=0.24. Mass spectrum (CI) 204 (MH+, 74%).

reactant | N5 -(iminomethoxymethyl)-L-ornithine dihydrochloride | Cl.Cl.N=COCNCCC[C@H](N)C(=O)O
reactant | N2 (tert-butoxycarbonyl)-N5 -(ethoxyiminomethyl)-L-ornithine tert-butyl ester hydrochloride | 1.97 mmol, 0.78 g | N#N.Cl.C(C)(C)(C)OC([C@@H](NC(=O)OC(C)(C)C)CCCNC=NOCC)=O
product | N5 -(ethoxyiminomethyl)-L-ornithine dihydrochloride monohydrate | 0.51 g, 94% | O.Cl.Cl.C(C)ON=CNCCC[C@H](N)C(=O)O | InChI=1S/C8H17N3O3.2ClH.H2O/c1-2-14-11-6-10-5-3-4-7(9)8(12)13;;;/h6-7H,2-5,9H2,1H3,(H,10,11)(H,12,13);2*1H;1H2/t7-;;;/m0.../s1
